US07897631B2
To a 50 mL round-bottomed flask equipped with a magnetic stirbar was added 3-furan methanol (1.00 g, 10.2 mmol) and a solution of diphenyl phosphoryl azide (3.37 g, 12.2 mmol) in toluene (30 mL). The stirring solution is allowed to cool to 0° C., in which 1,8 Diazabycyclo [5.4.0.] undec-7-ene (1.86 g, 12.2 mmol) was added dropwise. The reaction is allowed to slowly warm to ambient temperature for an additional 16 hours of stirring. After this period, the reaction mixture is washed with water (2×20 mL) and then with 5% HCl (20 mL). Volatiles are evaporated under reduced pressure. The resulting residue is then purified by column chromatography (1:9 ethyl acetate/hexane) providing 3-azidomethyl furan (1.19 g, 95%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.46 (d, 1H), δ 7.44 (s, 1H), δ 6.42 (d, 1H), δ 4.20 (s, 2H). ppm; 13C NMR (75 MHz, CDCl3) δ144.1, 141.1, 110.4, 92.1, 45.8 ppm; LRMS (EI) calcd for C5H5N3O (M+) 123. found 123.

reactant | 3-furan methanol | 10.2 mmol, 1.00 g | O1C=C(C=C1)CO | C5H6O2
reactant | diphenyl phosphoryl azide | 12.2 mmol, 3.37 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | undec-7-ene | 12.2 mmol, 1.86 g | CCCCCCC=CCCC | C11H22
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-azidomethyl furan | 1.19 g, 95% | N(=[N+]=[N-])CC1=COC=C1 | C5H5N3O
